US04933458
In 14 ml of chloroform was dissolved 1.4 g of 2-methyl-3-(2-pyridylmethylthio)pyrido[2,3-b]pyrazine. To the solution under chilling with ice was added portionwise 1.1 g of m-chloroperbenzoic acid (purity: 80%). The reaction mixture was then left to have room temperature, and poured into saturated aqueous NaHCO3 solution. The aqueous mixture was extracted with chloroform. T he chloroform layer was washed with water and saturated aqueous sodium chloride solution, and dried over sodium sulfate. The sodium sulfate was then removed by filtration, and the solvent was evaporated under reduced pressure from the filtrate. The residue was purified by silica gel column chromatography (chloroform/methanol), to give 420 mg of 2-methyl-3-(2-pyridylmethylsulfinyl)pyrido[2,3-b]pyrazine as a brown crystalline powder, m.p. 120°-125° C. (decompn.).

reactant | 2-methyl-3-(2-pyridylmethylthio)pyrido[2,3-b]pyrazine | 1.4 g | CC=1N=C2C(=NC1SCC1=NC=CC=C1)N=CC=C2 | C14H12N4S
reactant | m-chloroperbenzoic acid | 1.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | 14 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-3-(2-pyridylmethylsulfinyl)pyrido[2,3-b]pyrazine | 420 mg | CC=1N=C2C(=NC1S(=O)CC1=NC=CC=C1)N=CC=C2 | C14H12N4OS
